US05962682
In analogy to Example 121, by coupling 3-(2,3-dihydroxy-propoxy)-4-(3-methoxy-phenoxy)-5-(4-methylsulphanyl-benzenesulphonylamino)-benzoic acid with aniline there was obtained 3-(2,3-dihydroxy-propoxy)-4-(3-methoxy-phenoxy)-5-(4-methylsulphanyl-benzenesulphonylamino)-N-phenyl-benzamide as a foam.

reactant | 3-(2,3-dihydroxy-propoxy)-4-(3-methoxy-phenoxy)-5-(4-methylsulphanyl-benzenesulphonylamino)-benzoic acid | OC(COC=1C=C(C(=O)O)C=C(C1OC1=CC(=CC=C1)OC)NS(=O)(=O)C1=CC=C(C=C1)SC)CO | C24H25NO9S2
reactant | aniline | NC1=CC=CC=C1 | C6H7N
product | 3-(2,3-dihydroxy-propoxy)-4-(3-methoxy-phenoxy)-5-(4-methylsulphanyl-benzenesulphonylamino)-N-phenyl-benzamide | OC(COC=1C=C(C(=O)NC2=CC=CC=C2)C=C(C1OC1=CC(=CC=C1)OC)NS(=O)(=O)C1=CC=C(C=C1)SC)CO | C30H30N2O8S2
